US07705028B2
8c) Methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate
A solution of 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole (0.12 g, 0.36 mmol), methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate (0.084 g, 0.30 mmol), and cesium carbonate (137 mg, 0.42 mmol) in dimethylformamide (0.73 mL) was heated to 65° C. for 3 hours. The solution was partitioned between ethyl acetate and water. The organic layer was dried with magnesium sulfate, filtered and concentrated. The filtrate was purified by chromatography (silica gel, hexane to 3:7 ethyl acetate:hexanes) to provide the title compound (0.130 g, 68.4% as 1.0 ethyl acetate). 1H NMR (DMSO-d6): δ 8.66 (s, 1H), 8.34 (s, 1H), 8.04-8.00 (m, 2H), 7.94-7.90 (m, 2H), 7.69 (d, J=9 Hz, 2H), 7.62 (d, J=8 Hz, 2H), 7.55-7.51 (m, 1H), 6.91 (d, J=9 Hz, 2H), 4.87 (s, 2H), 3.90 (s, 3H), 3.46 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6H). ESI-LCMS m/z 546 (M+H)+.

reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 0.36 mmol, 0.12 g | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | methyl 7-(4-hydroxyphenyl)-2-naphthalenecarboxylate | 0.30 mmol, 0.084 g | OC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC | C18H14O3
reactant | cesium carbonate | 0.42 mmol, 137 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 0.73 mL | CN(C=O)C | C3H7NO
product | Methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate | 0.130 g, 68.4% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC)C(C)C | C31H25Cl2NO4
